US07705034B2
Using general procedure B, 5-fluoro-3-methyl-benzo[b]thiophene was reacted with benzaldehyde to give (5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol as a pale yellow oil. MS: 255.3 ([M+H—H2O]+).

reactant | 5-fluoro-3-methyl-benzo[b]thiophene | FC1=CC2=C(SC=C2C)C=C1 | C9H7FS
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol | FC1=CC2=C(SC(=C2C)C(O)C2=CC=CC=C2)C=C1 | C16H13FOS
